US05273999
Preparation of 5-[5-[(3,4-Dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]-2-benzofurancarboxylic Acid
Starting with 0.207 g (1.00 mmol) of 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one, and 0.355 g (1.00 mmol) of 5-[(5-bromopentyl)oxy]-2-benzofurancarboxylic acid ethyl ester, there was obtained 0.093 g (20.5%) of the title compound as an off-white solid, mp 192°-195° C. (recrystallized from hexane-ethyl acetate), using the procedure of example 22.

reactant | 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one | 1.00 mmol, 0.207 g | OC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C12H14O3
reactant | 5-[(5-bromopentyl)oxy]-2-benzofurancarboxylic acid ethyl ester | 1.00 mmol, 0.355 g | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)OCCCCCBr | C16H19BrO4
product | 5-[5-[(3,4-Dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]-2-benzofurancarboxylic Acid | O=C1CCOC2=C1C=CC(=C2CCC)OCCCCCOC=2C=CC1=C(C=C(O1)C(=O)O)C2 | C26H28O7
